data/oMe_Silver.jsonl
{"reaction_id": "NR-235_1-C(C)C_2-c1ccccc1_3-C(C)C_4-C(F)(F)F","level": "medium","name": "Smiles Rearrangement","reactants_smiles": ["C(C)CNC(=O)C(c1ccccc1)(C(C)C)Oc1ccc(C(F)(F)F)cc1","CC[O-]"],"products_smiles": ["C(C)CN(c1ccc(C(F)(F)F)cc1)C(=O)C(c1ccccc1)(C(C)C)O"],"conditions": "CCO","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)C[N-]C(=O)C(c1ccccc1)(C(C)C)Oc1ccc(C(F)(F)F)cc1","step_weight": 0,"rationale": "Ethanol’s conjugate base deprotonates the amide nitrogen, increasing its nucleophilicity via negative charge delocalization onto the carbonyl oxygen."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[CH-]1C2(C=CC(C(F)(F)F)=C1)OC(c1ccccc1)(C(C)C)C(N2C(C)C)=O","step_weight": 0,"rationale": "The nitrogen anion attacks the electron-deficient aromatic ring ortho/para to the ether linkage, favored by resonance stabilization of the Meisenheimer complex."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(C)CN(c1ccc(C(F)(F)F)cc1)C(=O)C(c1ccccc1)(C(C)C)[O-]","step_weight": 0,"rationale": "The intermediate collapses, expelling the alkoxide leaving group to restore aromaticity, a strong thermodynamic driving force."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)CN(c1ccc(C(F)(F)F)cc1)C(=O)C(c1ccccc1)(C(C)C)O","step_weight": 0,"rationale": "The alkoxide oxygen is protonated by solvent ethanol, yielding the neutral hydroxyacetamide product."}],"description": "Under basic ethanol conditions, the amide nitrogen is deprotonated to form a strong nucleophile. This anion attacks the electron-deficient aromatic ring intramolecularly, forming a Meisenheimer complex. Collapse of this intermediate expels the alkoxide, restoring aromaticity, and protonation yields the rearranged hydroxyacetamide."}
{"reaction_id": "NR-002_1-c1ccccc1_2-c1ccc(F)cc1","name": "Acid-catalyzed Aldol addition","level": "easy","reactants_smiles": ["C(=O)(c1ccccc1)Cc1ccc(F)cc1","C(=O)(c1ccccc1)Cc1ccc(F)cc1"],"products_smiles": ["C(=O)(c1ccccc1)C(c1ccc(F)cc1)C(O)(Cc1ccc(F)cc1)c1ccccc1"],"conditions": "Acid (H3O+)","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=Cc1ccc(F)cc1)(O)c1ccccc1","rationale": "Acid catalysis protonates the carbonyl oxygen, increasing α-proton acidity and enabling enol formation via resonance stabilization of the resulting cation."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[OH+]=C(c1ccccc1)Cc1ccc(F)cc1","rationale": "Protonation of the second carbonyl oxygen enhances its electrophilicity by withdrawing electron density, making it more susceptible to nucleophilic attack."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[OH+]=C(c1ccccc1)C(c1ccc(F)cc1)C(O)(Cc1ccc(F)cc1)c1ccccc1","rationale": "The nucleophilic enol π-system attacks the activated carbonyl carbon, favored by strong electrophilicity and minimal steric hindrance at the reaction site."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "O=C(c1ccccc1)C(c1ccc(F)cc1)C(O)(Cc1ccc(F)cc1)c1ccccc1","rationale": "Deprotonation restores the neutral β-hydroxyketone, driven by the stability of the carbonyl and alcohol functional groups under acidic workup."}],"description": "Under acidic conditions, one carbonyl is activated toward enolization, generating an electrophilic partner and a nucleophilic enol. The enol attacks the protonated carbonyl, forming a new C–C bond. Subsequent proton transfers regenerate the carbonyl and yield the β-hydroxyketone product."}
{"reaction_id": "NR-107_1-C(C)(C)C_2-c1cnccc1_3-c1ccc(F)cc1_4-c1ccccc1_5-CC(F)(F)F_6-c1ccc(F)cc1C_7-CC#N","level": "medium","name": "Hofmann Elimination","reactants_smiles": ["C(C(C)(C)C)(c1cnccc1)C(c1ccc(F)cc1)(c1ccccc1)[N+](CC(F)(F)F)(c1ccc(F)cc1C)CC#N","[OH-]"],"products_smiles": ["C(=C(c1ccc(F)cc1)c1ccccc1)(C(C)(C)C)c1cnccc1"],"conditions": "Heat","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=C(c1ccc(F)cc1)c1ccccc1)(C(C)(C)C)c1cnccc1","step_weight": 0,"rationale": "Hydroxide abstracts the least hindered β-hydrogen anti-periplanar to the bulky ammonium group; the excellent leaving ability of the quaternary ammonium drives E2 elimination, yielding the less substituted alkene favored by steric effects."}],"description": "Under strong base and heat, the quaternary ammonium group undergoes Hofmann elimination, favoring the less substituted alkene due to steric hindrance and anti-periplanar geometry requirements. Hydroxide abstracts a β-proton, facilitating elimination of the bulky ammonium leaving group."}
